US07795283B2
Intermediate 84: Methyl 3-(4-aminophenyl)cyclopentanecarboxylate
10% palladium on carbon (78 mg) was added to a stirred solution of methyl 3-(4-nitrophenyl)cyclopentanecarboxylate (782 mg, 3.14 mmol) in EtOH (40 mL). The mixture was stirred under an atmosphere of hydrogen for 16 h then filtered through diatomaceous earth and the filter washed with EtOAc. Volatile material was removed by evaporation to give the title compound (Intermediate 84) (608 mg, 88%) as an oil; 1H NMR δ 2.24-1.45 (m, 6H), 3.03-2.83 (m, 2H), 3.62 (s, 3H), 4.80 (s, 2H), 6.53-6.46 (m, 2H), 6.92-6.86 (m, 2H); MS m/e MH+ 220.

reactant | methyl 3-(4-nitrophenyl)cyclopentanecarboxylate | 3.14 mmol, 782 mg | [N+](=O)([O-])C1=CC=C(C=C1)C1CC(CC1)C(=O)OC | C13H15NO4
catalyst | palladium on carbon | 78 mg | [Pd] | Pd
solvent | EtOH | 40 mL | CCO | C2H6O
product | Methyl 3-(4-aminophenyl)cyclopentanecarboxylate | 608 mg, 88% | NC1=CC=C(C=C1)C1CC(CC1)C(=O)OC | C13H17NO2
